US08563575B2
Triisopropylsilyl chloride (2.384 mL) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2 g) and NaH (0.594 g) in DMF (20 mL) at 20° C. The mixture was stirred at 20° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was poured into sat. NaHCO3 at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-25% EtOAc in hexane) to give 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (4.0 g) as light brown crystals.

reactant | Triisopropylsilyl chloride | 2.384 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O)=O | C15H15N3O2
reactant | NaH | 0.594 g | [H-].[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 4.0 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O2Si
